US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-4-methyl-1,3-thiazol-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
Cesium carbonate (489 mg, 1.5 mmol) was added to a solution of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide (152 mg, 0.5 mmol) and 5-(azetidin-1-ylcarbonyl)-2-bromo-4-methyl-1,3-thiazole (144 mg, 0.55 mmol) in acetonitrile (5 mL) and the stirred mixture heated at 120° C. in a microwave reactor for 2 hours. The mixture was allowed to cool, the acetonitrile evaporated in vacuo, and the residue partitioned between water (25 mL) and ethyl acetate (50 mL). The organic layer was washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with ethyl acetate, to give the desired compound as a solid which was further crystallised from an ethyl acetate/isohexane mixture (122 mg).

reactant | Cesium carbonate | 1.5 mmol, 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 0.5 mmol, 152 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C15H17N3O4
reactant | 5-(azetidin-1-ylcarbonyl)-2-bromo-4-methyl-1,3-thiazole | 0.55 mmol, 144 mg | N1(CCC1)C(=O)C1=C(N=C(S1)Br)C | C8H9BrN2OS
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)-4-methyl-1,3-thiazol-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | N1(CCC1)C(=O)C1=C(N=C(S1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1)C | C23H25N5O5S
